US09108948B2
1-[(1S,2S)-2-(4-Bromo-phenyl)-cyclopropylmethyl]-2(S)-methyl-pyrrolidine
A solution of (1S,2S)-2-(4-bromophenyl)cyclopropanecarbaldehyde (the product of Example 1C, 820 mg, 3.64 mmol) and (S)-2-methylpyrrolidine tartaric acid salt (1.12 g, 4.73 mmol) in ethanol (30 mL) was treated with sodium cyanoborohydride (345 mg 5.46 mmol). The mixture was stirred at room temperature for two hours. The mixture was basified to pH=10-12 with NaOH (10%) and partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (2×). The combined organic layers were dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure and the residue was purified on silica gel eluting with 1% to 2% methanol (containing 10% concentrated NH4OH) in dichloromethane to provide the title compound. 1H NMR (300 MHz, CDCl3): δ 0.87-0.92(m, 1H), 0.97-1.02 (m, 1H), 1.16 (d, J=6 Hz, 2H), 1.22 (m, 1H), 1.39-1.49 (m, 1H), 1.73-1.81 (m, 3H), 2.0 (m, 2H), 2.36 (q, J=6 Hz, 1H), 2.45 (m, 1H), 3.13 (dd, J=12 Hz, J=6 Hz, 1H), 3.25 (m, 1H), 7.00 (d, J=6 Hz, 2H), 7.37 (d, J=6 Hz, 2H). MS (DCl—NH3) m/z 294 (M+H)+.

reactant | (1S,2S)-2-(4-bromophenyl)cyclopropanecarbaldehyde | BrC1=CC=C(C=C1)[C@@H]1[C@H](C1)C=O | C10H9BrO
reactant | (S)-2-methylpyrrolidine tartaric acid salt | 4.73 mmol, 1.12 g | C(C(O)C(O)C(=O)O)(=O)O.C[C@@H]1NCCC1
reactant | sodium cyanoborohydride | 5.46 mmol, 345 mg | C(#N)[BH3-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-[(1S,2S)-2-(4-Bromo-phenyl)-cyclopropylmethyl]-2(S)-methyl-pyrrolidine | BrC1=CC=C(C=C1)[C@@H]1[C@H](C1)CN1[C@H](CCC1)C | C15H20BrN
